US06037354
Step B: 2-(1,4-Dioxaspiro[4.5]dec-8-yl)pyridine
To a solution of 14.6 g (67.19 mmol) of 2-(1,4-dioxaspiro[4.5]dec-7-en-8-yl)pyridine in ethyl acetate (400 mL) was added 4.6 g of 10% palladium on carbon catalyst. The resulting suspension was then hydrogenated at ambient temperature and atmospheric pressure until all the starting material was consumed (10.5 hr). The reaction mixture was filtered through celite and the filtrate was concentrated to give the product as an oily solid.

reactant | 2-(1,4-dioxaspiro[4.5]dec-7-en-8-yl)pyridine | 67.19 mmol, 14.6 g | O1CCOC12CC=C(CC2)C2=NC=CC=C2 | C13H15NO2
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 4.6 g | [Pd] | Pd
product | 2-(1,4-Dioxaspiro[4.5]dec-8-yl)pyridine | O1CCOC12CCC(CC2)C2=NC=CC=C2 | C13H17NO2
